US07008759B2
Step 1D. Synthesis of 2-methyl-4-decyloxyaniline
The mixture of crude 2-methyl-4-decyloxynitrobenzene (90 g, 0.294 mol), methanol (246 mL), concentrated hydrochloric acid (159 mL) and dioxane (70 mL) was heated to 75° C. Iron powder (49.9 g, 0.89 mol) was added in small portions with vigorous stirring. After the addition was complete the reaction mixture was stirred at 75° C. for another 20 minutes and poured warm into water (3 L), stirred for 30 minutes and the pH adjusted to 11.0 by addition of aqueous potassium carbonate solution. Dichloromethane (3 L) was added and the mixture was stirred intensively for 1 hour. The layers were separated and the organic layer dried over sodium sulfate and passed through a thin pad of silica gel. The solvent was evaporated to dryness to give a brown oil (58.5 g, 0.22 mol, 76% yield).

reactant | 2-methyl-4-decyloxynitrobenzene | 0.294 mol, 90 g | CC1=C(C=CC(=C1)OCCCCCCCCCC)[N+](=O)[O-] | C17H27NO3
reactant | methanol | 246 mL | CO | CH4O
reactant | hydrochloric acid | 159 mL | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | Iron | 0.89 mol, 49.9 g | [Fe] | Fe
solvent | Dichloromethane | 3 L | ClCCl | CH2Cl2
solvent | water | 3 L | O | H2O
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
product | 2-methyl-4-decyloxyaniline | 0.22 mol, 58.5 g, 76% yield | CC1=C(N)C=CC(=C1)OCCCCCCCCCC | C17H29NO
